US05470987
9,9-Bis {4 -(4-hydroxyphthalimido)phenyl}fluorene
A mixture of 4-hydroxyphthalic acid (4.0 g, 22 mmol), 9,9-bis(4-aminophenyl)fluorene (3.5 g, 10 mmol), and 40 ml of acetic acid was stirred and heated under reflux for 48 hours. After cooling to room temperature, the precipitate was collected by filtration and washed with acetic acid (2×25 ml) to provide the title compound as a colorless powder having a melting point greater than 300° C. (3.4 g, 53.1% yield). The nuclear magnetic resonance and infrared spectrum were consistent with the structure.

reactant | 4-hydroxyphthalic acid | 22 mmol, 4.0 g | OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O5
reactant | 9,9-bis(4-aminophenyl)fluorene | 10 mmol, 3.5 g | NC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)N | C25H20N2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 9,9-Bis {4 -(4-hydroxyphthalimido)phenyl}fluorene | 53.1% yield | OC=1C=C2C(C(=O)N(C2=O)C2=CC=C(C=C2)C2(C3=CC=CC=C3C=3C=CC=CC23)C2=CC=C(C=C2)N2C(C=3C(C2=O)=CC(=CC3)O)=O)=CC1 | C41H24N2O6
